US06160128
Trimethylsilylacetic acid (0.1 mmole) and N-hydroxyphthalimide (0.1 mmole) were weighed under N2 and placed in a conical flask with 2 side arms (flask A). Dry THF/dioxane (0.5 mL) was added and removed carefully under vacuum to dry the substrates. THF (0.4 mL) was added and mixed to dissolve the substrates. DCC (95 μL, 1 M solution in methylene chloride) dried on activated molecular sieves was added and mixed. The reaction was stirred 3 hours, and a precipitate formed after 10 minutes. THF was removed under vacuum to dryness. Dry ether was added (1 mL) and mixed to dissolve the product of coupling, the reaction was left for 5 minutes for the by-product dicyclohexylurea to settle. The upper layer was transferred and filtered into the second flask. Dry ether (0.5 mL) was added, mixed and the upper layer was again transferred as above. The ether was removed under vacuum to leave the TMS-acetoxyphthalimide as a white solid.

reactant | Trimethylsilylacetic acid | 0.1 mmole | C[Si](C)(C)CC(=O)O | C5H12O2Si
reactant | N-hydroxyphthalimide | 0.1 mmole | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | THF dioxane | 0.5 mL | C1CCOC1.O1CCOCC1
product | TMS-acetoxyphthalimide | [Si](C)(C)(C)C=1C(=C2C(C(=O)NC2=O)=CC1)OC(C)=O | C13H15NO4Si
